US06921759B2
N-(4-fluorobenzyl)-8-hydroxy-5-thiomorpholin-4-yl-1,6-naphthyridine-7-carboxamide
A solution of 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide (0.25 g, 0.67 mmol), thiomorpholine (0.19 mL, 2.0 mmol) and diisopropylethylamine (0.06 mL, 0.67 mmol) in DMPU (3.0 mL) were heated at 135 C for 23 hr. The reaction was cooled to room temperature, neutralized by the addition of TFA and purified by reverse phase HPLC. (Vydak C18, Gradient elution with Water:Acetonitrile 95:5 to 5:95 with 0.1% TFA at 30 mL/min over 15 mins). Lyophilization of the pure fractions afforded the title compound as an off white solid.

reactant | 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide | 0.67 mmol, 0.25 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O | C16H11BrFN3O2
reactant | thiomorpholine | 2.0 mmol, 0.19 mL | N1CCSCC1 | C4H9NS
reactant | diisopropylethylamine | 0.67 mmol, 0.06 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMPU | 3.0 mL | CN1CCCN(C1=O)C | C6H12N2O
product | N-(4-fluorobenzyl)-8-hydroxy-5-thiomorpholin-4-yl-1,6-naphthyridine-7-carboxamide | FC1=CC=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)N2CCSCC2)C=C1 | C20H19FN4O2S
